US08492395B2
A stirred mixture of 5-bromo-isatoic anhydride (6.0 g, 25 mmol), 3-amino-piperidine-2,6-dione hydrogen chloride (4.1 g, 25 mmol), triethylamine (18 mL, 129 mmol), and acetic acid (15 mL, 262 mmol) in acetonitrile (60 mL) was heated at 90° C. for 18 hours. The suspension was filtered and washed with acetonitrile (2×80 mL), water (2×80 mL) and ethyl acetate (2×80 mL) to give 2-amino-N-(2,6-dioxo-piperidin-3-yl)-5-bromo-benzamide as a white solid (5.8 g, 72% yield): LCMS: MH=326, 328. The sample was used in the next step without further purification.

reactant | 5-bromo-isatoic anhydride | 25 mmol, 6.0 g | BrC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4BrNO3
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 25 mmol, 4.1 g | Cl.NC1C(NC(CC1)=O)=O
reactant | triethylamine | 129 mmol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 262 mmol, 15 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-5-bromo-benzamide | 5.8 g, 72% yield | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C=C(C=C1)Br | C12H12BrN3O3
